US08748434B2
f) 3-Trifluoromethyl-5-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester
A solution of 3-bromo-5-trifluoromethyl-benzoic acid methyl ester (600 mg, 2.12 mmol, CAS RN 187331-46-0) in dioxane (6 mL) and 2-(trimethylsilyl)ethanethiol (285 mg, 335 μL, 2.12 mmol, CAS RN 18143-30-1) was stirred under argon for 5 min., treated with tris(dibenzylideneacetone)dipalladium (0) (48.5 mg, 53.0 μmol, CAS RN 52522-40-4), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (61.3 mg, 106 μmol, xantphos, CAS RN 161265-03-8) and N,N-diisopropylethylamine (548 mg, 740 μL, 4.24 mmol) and stirred at 120° C. in a sealed tube for 4 h. Stirring was continued at room temperature for another 18 hours. The reaction mixture was poured on saturated aqueous ammonium chloride solution and ethyl acetate and the layers were separated. The aqueous layer was extracted twice with ethyl acetate. The organic layers were dried over magnesium sulfate, filtered, treated with silica gel and evaporated. The compound was purified by silica gel chromatography on a 20 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 80:20). Yellow liquid (587 mg, 82%). MS (EI): m/z=336 ([M]).

reactant | 3-bromo-5-trifluoromethyl-benzoic acid methyl ester | 2.12 mmol, 600 mg | COC(C1=CC(=CC(=C1)C(F)(F)F)Br)=O | C9H6BrF3O2
reactant | 2-(trimethylsilyl)ethanethiol | 2.12 mmol, 335 μL, 285 mg | C[Si](CCS)(C)C | C5H14SSi
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 106 μmol, 61.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | N,N-diisopropylethylamine | 4.24 mmol, 740 μL, 548 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 53.0 μmol, 48.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Trifluoromethyl-5-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)SCC[Si](C)(C)C)C(F)(F)F)=O | C14H19F3O2SSi
